US04209444
A mixture of 2 g of 9-oxo-15,15-ethylenedioxy-13-prostenoic acid methyl ester (obtainable from 7-(2-formyl-5-oxo-cyclopentyl)-heptanoic acid methyl ester by reaction with dimethyl-2,2-ethylenedioxyheptyl phosphonate in the presence of NaH), 100 ml of dry benzene, 10 ml of ethylene glycol and 0.2 g of p-toluenesulphonic acid is boiled for 12 hours on a water separator. After cooling, the mixture is diluted with 100 ml of diethyl ether and washed with aqueous NaHCO3 solution and water. The organic phase is dried over Na2SO4 and the solvent distilled. After chromatographic purification of the residue (silica gel/diisopropyl ether), 9,9;15,15-bis-(ethylenedioxy)-13-prostenoic acid methyl ester is obtained.

reactant | 9-oxo-15,15-ethylenedioxy-13-prostenoic acid methyl ester | 2 g | COC(CCCCCC[C@H]1C(CC[C@@H]1C=CC1(CCCCC)OCCO1)=O)=O | C23H38O5
reactant | 7-(2-formyl-5-oxo-cyclopentyl)-heptanoic acid methyl ester | COC(CCCCCCC1C(CCC1=O)C=O)=O | C14H22O4
reactant | dimethyl-2,2-ethylenedioxyheptyl phosphonate | P(OCC1(CCCCC(C)C)OCCO1)([O-])=O
reactant | NaH | [H-].[Na+]
reactant | p-toluenesulphonic acid | 0.2 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | diethyl ether | 100 ml | C(C)OCC | C4H10O
solvent | water | O | H2O
solvent | ethylene glycol | 10 ml | C(CO)O | C2H6O2
solvent | benzene | 100 ml | C1=CC=CC=C1 | C6H6
product | 15,15-bis-(ethylenedioxy)-13-prostenoic acid methyl ester | COC(CCCCCC[C@H]1CCC[C@@H]1C=CC12C(CCCC)(OCCO1)OCCO2)=O | C25H42O6
